US06011046
5-(2,3-Dihydro-5-hydroxy-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)valeric acid
An aqueous 1N sodium hydroxide solution (30 ml) was added to a solution of ethyl 5-(5-acetoxy-2,3-dihydro-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)valerate (2.3 g) in methanol (20 ml), and the mixture was stirred at room temperature for 2 hours. 1N hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain the title compound (2.0 g, 96%) as an oil.

reactant | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
reactant | ethyl 5-(5-acetoxy-2,3-dihydro-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)valerate | 2.3 g | C(C)(=O)OC=1C(=C(C2=C(CC(O2)(C)CCCCC(=O)OCC)C1C)OC)OC | C21H30O7
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 5-(2,3-Dihydro-5-hydroxy-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)valeric acid | 2.0 g, 96% | OC=1C(=C(C2=C(CC(O2)(C)CCCCC(=O)O)C1C)OC)OC | C17H24O6
